US04596819
(S)-1-(Chloroacetyl)-2-pyrrolidinemethanol, 12 g (0.068 mol), is dissolved in 500 ml of tetrahydrofuran, the solution is cooled to 0°-5° C., and 3.96 g (0.099 mol) of 60% sodium hydride in mineral oil dispersion is slowly added. The mixture is allowed to reach room temperature and is stirred for 14 hours. Water, 20 ml, is added, the solvents evaporated in vacuo, and the residue suspended in 300 ml of chloroform and washed with 100 ml of water and then a saturated aqueous solution of sodium chloride, 2×200 ml. The chloroform layer is separated, dried over sodium sulfate, and evaporated in vacuo. The residue is purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give tetrahydro-1H-pyrrolo[2,1-c][1,4]oxazin-4-(3H)-one, 4.4 g; mp 63.5°-66°.

reactant | (S)-1-(Chloroacetyl)-2-pyrrolidinemethanol | ClCC(=O)N1[C@@H](CCC1)CO | C7H12ClNO2
reactant | sodium hydride | 0.099 mol, 3.96 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | tetrahydro-1H-pyrrolo[2,1-c][1,4]oxazin-4-(3H)-one | C1OCC(N2C1CCC2)=O | C7H11NO2
